2125-01-09 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -HD done yesterday, but no fluid taken off
   -concern DIC - recheck on AM labs
   -gave IVF o/n in repeat boluses (>2.5L total); stopped when heard very
   faint crackles at lung bases
   - confused o/n (?sundowning; didn't require any meds however)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-1-8**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2125-1-8**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2125-1-8**] 10:07 PM
   Morphine Sulfate - [**2125-1-9**] 04:15 AM
   Pantoprazole (Protonix) - [**2125-1-9**] 04:27 AM
   Dextrose 50% - [**2125-1-9**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-9**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 82 (69 - 85) bpm
   BP: 148/54(79) {118/38(67) - 184/66(94)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,505 mL
                                                                  1,065 mL
   PO:
             TF:
   IVF:
                                                                  3,505 mL
                                                                  1,040 mL
   Blood products:
   Total out:
                                                                     38 mL
                                                                     23 mL
   Urine:
                                                                     38 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                  1,042 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L (unchanged)
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   GEN: A&O x1, confused, fearful.
   CV: RRR, no murmurs
   PULM: mild faint crackles bases b/l (albeit with poor inspiratory
   effort and expiratory groans of pain)
   ABD: TTP (although less-so), +sparse BS, distended
   EXTR: no significant edema
   Labs / Radiology
   63 K/uL
   11.2 g/dL
   46 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.7 mEq/L
   21 mg/dL
   105 mEq/L
   143 mEq/L
   35.0 %
   6.7 K/uL
        [image002.jpg]
                            [**2125-1-8**]  04:58 PM
                            [**2125-1-8**]  09:25 PM
                            [**2125-1-9**]  05:17 AM
   WBC
   8.3
   6.7
   Hct
   38.5
   39.9
   35.0
   Plt
   83
   89
   63
   Cr
   2.1
   Glucose
   46
   Other labs: PT / PTT / INR:28.4/34.6/2.8, ALT / AST:385/341, Alk Phos /
   T Bili:171/4.2, Amylase / Lipase:488/223, Fibrinogen:635 mg/dL,
   Albumin:2.8 g/dL, LDH:219 IU/L, Ca++:7.2 mg/dL, Mg++:1.4 mg/dL, PO4:2.7
   mg/dL
   (AST/ALT improved; TBili rose from 3.4 to 4.2)
   CT Abd/Pelvis:
   1. CT evidence of acute pancreatitis, with somewhat hypoenhancing head
   of the
   pancreas, which could represent areas of ischemia, but without frank
   necrosis.
   Followup should be considered if indicated by other clinical
   information.
   2. No evidence of ischemic colitis.
   3. Persistently dilated gallbladder, without other evidence of acute
   cholecystitis.
   4. Atrophic appearance of the kidneys consistent with a history of
   renal
   failure and hemodialysis dependence. Multiple renal hypodensities.
   5. Apparent cecal diverticulum.
   Abd U/S:
   1. Persistently dilated gallbladder (as in [**2124-9-26**]) with sludge
   and
   possible gallstones. Correlate with fasting state, although if there is
   high
   concern for acute cholecystitis, HIDA can be considered.
   2. No common bile duct dilation or choledocholithiasis identified as
   distally
   as CBD traced.
   Assessment and Plan
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 PANCREATITIS, ACUTE
   #. PANCREATITIS: acute with no h/o pancreatitis per son, reportedly no
   EtOH, nml TG; slight effusion and volume depletion likely related; Ca
   normal now though a little lower than last night; in considerable
   pain.  Appears volume depleted per labs with hemoconcentration, though
   is hypertensive (got 2L in ED, 125cc/hr overnight).  Unclear cause--
   possibly from augmentin which was started 2 days prior to sx though not
   highly associated with pancreatitis (though is a/w cholestatic
   jaundice)
   -- pain control with IV morphine PRN and standing Tylenol
   -- c/s surgery re: evaluation for potential surgery once acute
   inflammation settles
   -- NPO
   -- would be helpful to know baseline dry weight from HD center (renal
   may have this)
   -- monitor Ca closely (Ca corrects to 8.2 this AM; gave 1g IV this AM
   to replete)
   -- zofran and compazine PRN
   -- trend LFTs; consider MRCP if not improving
   --hold on NG tube for bowel decompression given concern for delirium
   and symptomatically improving
   -- concern for DIC with thrombocytopenia (but elevated fibrinogen, and
   Hct still above baseline, so not significant concern; believe INR still
   rising d/t coumadin and ESRD); check peripheral smear today, check pm
   CBC and coags
   .
   #. HYPERTENSION: Patient with elevated BP into 200-220s SBP in context
   of pain with pancreatitis and also with fluid administration though not
   obviously volume overloaded. At home was on imdur, metoprolol, and
   norvasc.
   -- cont home meds
   -- address pain control
   -- will avoid lowering too aggressively given concern for potential
   hypotension in setting of pancreatitis
   .
   # ESRD on HD: Patient M,W,F HD usually at [**Hospital1 475**], followed by Dr. [**Last Name (STitle) 1362**].
   Has R AVF. S/p HD on [**1-8**]. Given ~3L of fluid on [**1-8**], NS.
   -- f/u renal recs; no HD planned for today
   -- hold on IVF today as not hypotensive and crackles here on pulmonary
   exam
   -- continue sevelamer  w/ meals once taking PO's
   .
   # AFIB: Patient with h/o afib on coumadin. INR slightly subtherapeutic
   at 1.6 in ED. Patient currently sinus rhythm, BP controlled. Now INR
   therapeutic.
   - continue coumadin
   - can stop SQH now that therapeutic
   - follow daily INR
   - continue home dose of metoprolol with IV doses if needed
   .
   # DMII: Controlled on insulin at home
   - QID finger sticks
   - Continue patient on NPH 15 units daily and humalog insulin sliding
   scale  - with hold parameters, and give D50 as needed for hypoglycemia
   (hypoglycemia perhaps due to NPO as well as prior insulin
   administration in setting of ESRD)
   .
   # Confusion: More fearful and confused than yesterday
 concern
   delirium in elderly.
   - pain control (standing Tylenol to avoid opiates as much as possible
   yet still with adequate pain relief)
   - consider haldol or seroquel or zyprexa (keep in mind elderly and
   renal failure) prn if worsens
   - frequent reorientation
   .
   # Frequent urinary tract infections: Patient with know frequent UTIs
   recently started on Macrodantin 100mg QHS for ppx. Reportedly was
   started on augmentin three days ago for UCx + on [**12-28**], though no note
   yet in OMR.
   -- Will avoid augmentin given risk of cholestatic jaundice with current
   LFT's
   -- [**12-28**] showed sensitivities to ceftriaxone --> will write for
   ceftriaxone 1 g IV QD x 7 days
   -- f/u UCx from admission, though will be difficult to interpret in
   setting of recent abx
   -- d/c Foley
   .
   #. History of Anemia. Patient's Hct is up from baseline, likely [**2-28**]
   hemoconcentration. Patient without evidence of active bleeding from GI
   tract, however did note some trace hematemesis, declined NGT in ED.
   -- hold on NGT placement
   -- cont trending Hct
   -- no need for guiaic stools given recent GIB hx; monitor for gross
   blood loss
   .
   # h/o TIA/CVA: No acute concerns or neuro deficits.
   .
   # Hypercholesterolemia:
   - hold home atorvastatin with elevated LFT's (for now).
   .
   # Seasonal Allergies:
   - continue on home fluticasone.
   .
   # FEN: Replete lytes (pm lytes check), NPO for now, hold IVF for now
   (consider IVF if BP decreases).
   .
   # Prophylaxis:
   -DVT ppx with SC heparin being held as INR therapeutic on warfarin
   -Bowel regimen with senna, colace, dulcolax with narcotics
   -Pain management with IV morphine, standing tylenol, lidocaine patch
   .
   # Access: peripherals, 18g R EJ, 20g L PIV, RAVF; place PICC today
   .
   # Code: full code-- confirmed with son on admission to ICU
   .
   # Communication: Patient, son, [**Name (NI) 9875**] [**Name (NI) **] [**Telephone/Fax (1) 9876**]. "signed"
   ICU consent over the phone on admission
   .
   # Disposition: to remain in ICU for close monitoring for now
   ICU Care
   Lines:
   20 Gauge - [**2125-1-8**] 11:00 AM
   18 Gauge - [**2125-1-8**] 11:03 AM

2125-01-09 10:23:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, Hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More confused overnight
   Reports only mild abd pain this AM
   24 Hour Events:
   3.5L pos yest after MICU arrival
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-1-8**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-1-8**] 10:07 PM
   Morphine Sulfate - [**2125-1-9**] 04:15 AM
   Pantoprazole (Protonix) - [**2125-1-9**] 04:27 AM
   Dextrose 50% - [**2125-1-9**] 08:11 AM
   Fentanyl - [**2125-1-9**] 08:12 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Genitourinary: Dialysis
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2125-1-9**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 84 (69 - 87) bpm
   BP: 155/59(84) {118/38(67) - 187/74(103)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,505 mL
                                                                  1,238 mL
   PO:
             TF:
   IVF:
                                                                  3,505 mL
                                                                  1,188 mL
   Blood products:
   Total out:
                                                                     38 mL
                                                                     48 mL
   Urine:
                                                                     38 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                  1,190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, moaning but
   redirectable
   Labs / Radiology
   11.2 g/dL
   63 K/uL
   46 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.7 mEq/L
   21 mg/dL
   105 mEq/L
   143 mEq/L
   35.0 %
   6.7 K/uL
        [image002.jpg]
                            [**2125-1-8**]  04:58 PM
                            [**2125-1-8**]  09:25 PM
                            [**2125-1-9**]  05:17 AM
   WBC
   8.3
   6.7
   Hct
   38.5
   39.9
   35.0
   Plt
   83
   89
   63
   Cr
   2.1
   Glucose
   46
   Other labs: PT / PTT / INR:28.4/34.6/2.8, ALT / AST:385/341, Alk Phos /
   T Bili:171/4.2, Amylase / Lipase:488/223, Fibrinogen:635 mg/dL,
   Albumin:2.8 g/dL, LDH:219 IU/L, Ca++:7.2 mg/dL, Mg++:1.4 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 PANCREATITIS, ACUTE
   86 yo woman with ESRD on HD in MICU with pancreatits and hypertension
   1. Pancreatitis: cont NPO.  Pain control with iv morphine prn
   2. Delerium: Imoroved this AM
   3. Hypertension: Cont Imdur, metoprolol, Norvasc
   4. Chronic Renal Failure: Oxygenating adequately - next HD per renal
   5. Throbocytopenia: Fibrinogen high.  Check smear.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-1-8**] 11:00 AM
   18 Gauge - [**2125-1-8**] 11:03 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2125-01-10 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2125-1-9**] 12:13 PM
 URINE CULTURE - At [**2125-1-9**] 06:35 PM
 BLOOD CULTURED - At [**2125-1-9**] 06:35 PM
 FEVER - 101.7
F - [**2125-1-9**] 06:00 PM
   - renal recs: no HD today, plan for HD tomorrow
   - PICC placed
   - CXR w. ? infiltrate; will get another CXR in the AM, and pt without
   resp distress or sig sputum production.
   - concern for DIC: looked at smear -> no evidence of DIC (no
   schistocytes), although cells do appear dysplastic (could be MDS or due
   to acute inflammation). following coags, PLT - stable.
   - spiked temp 101.7 and was pan-cultured, also added Vanc for coverage
   of hospital-acquired organisms
   - hypertensive to 180s/60s (although BP cuff on leg) -> given hydral
   10mg IV x1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-1-9**] 02:45 PM
   Vancomycin - [**2125-1-9**] 06:40 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2125-1-9**] 08:11 AM
   Fentanyl - [**2125-1-9**] 11:15 AM
   Haloperidol (Haldol) - [**2125-1-10**] 02:15 AM
   Pantoprazole (Protonix) - [**2125-1-10**] 04:30 AM
   Hydralazine - [**2125-1-10**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-10**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.3
   HR: 93 (81 - 93) bpm
   BP: 192/80(85) {119/38(56) - 216/113(128)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,877 mL
                                                                    162 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,767 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                    215 mL
                                                                    118 mL
   Urine:
                                                                    215 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,662 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   10.3 g/dL
   121 mg/dL
   3.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   35 mg/dL
   100 mEq/L
   139 mEq/L
   32.3 %
   6.3 K/uL
        [image002.jpg]
                            [**2125-1-8**]  04:58 PM
                            [**2125-1-8**]  09:25 PM
                            [**2125-1-9**]  05:17 AM
                            [**2125-1-9**]  05:17 PM
                            [**2125-1-10**]  04:21 AM
   WBC
   8.3
   6.7
   7.0
   6.3
   Hct
   38.5
   39.9
   35.0
   34.2
   32.3
   Plt
   83
   89
   63
   61
   61
   Cr
   2.1
   2.7
   3.3
   Glucose
   46
   121
   Other labs: PT / PTT / INR:33.6/35.6/3.4, ALT / AST:222/117, Alk Phos /
   T Bili:146/3.3, Amylase / Lipase:488/223, Fibrinogen:635 mg/dL,
   Albumin:2.6 g/dL, LDH:186 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 PANCREATITIS, ACUTE
   #. PANCREATITIS: acute with no h/o pancreatitis per son, reportedly no
   EtOH, nml TG; slight effusion and volume depletion likely related; Ca
   normal now though a little lower than last night; in considerable
   pain.  Appears volume depleted per labs with hemoconcentration, though
   is hypertensive (got 2L in ED, 125cc/hr overnight).  Unclear cause--
   possibly from augmentin which was started 2 days prior to sx though not
   highly associated with pancreatitis (though is a/w cholestatic
   jaundice)
   -- pain control with IV morphine PRN and standing Tylenol
   -- c/s surgery re: evaluation for potential surgery once acute
   inflammation settles
   -- NPO
   -- would be helpful to know baseline dry weight from HD center (renal
   may have this)
   -- monitor Ca closely (Ca corrects to 8.2 this AM; gave 1g IV this AM
   to replete)
   -- zofran and compazine PRN
   -- trend LFTs; consider MRCP if not improving
   --hold on NG tube for bowel decompression given concern for delirium
   and symptomatically improving
   -- concern for DIC with thrombocytopenia (but elevated fibrinogen, and
   Hct still above baseline, so not significant concern; believe INR still
   rising d/t coumadin and ESRD); check peripheral smear today, check pm
   CBC and coags; continues to be thrombocytopenic
   .
   #. FEVER: Spiked temp o/n (pancreatitis versus PNA versus urinary).
   - f/u cultures (blood and urine)
   - continue vancomycin (day #1 = [**1-9**])
   .
   #. HYPERTENSION: Patient with elevated BP into 200-220s SBP in context
   of pain with pancreatitis and also with fluid administration though not
   obviously volume overloaded. At home was on imdur, metoprolol, and
   norvasc.
   -- cont home meds
   -- address pain control
   -- will avoid lowering too aggressively given concern for potential
   hypotension in setting of pancreatitis
   .
   # ESRD on HD: Patient M,W,F HD usually at [**Hospital1 475**], followed by Dr. [**Last Name (STitle) 1362**].
   Has R AVF. S/p HD on [**1-8**]. Given ~3L of fluid on [**1-8**], NS.
   -- f/u renal recs; no HD planned for today
   -- hold on IVF today as not hypotensive and crackles here on pulmonary
   exam
   -- continue sevelamer  w/ meals once taking PO's
   .
   # AFIB: Patient with h/o afib on coumadin. INR slightly subtherapeutic
   at 1.6 in ED. Patient currently sinus rhythm, BP controlled. Now INR
   therapeutic.
   - continue coumadin
   - can stop SQH now that therapeutic
   - follow daily INR
   - continue home dose of metoprolol with IV doses if needed
   .
   # DMII: Controlled on insulin at home
   - QID finger sticks
   - Continue patient on NPH 15 units daily and humalog insulin sliding
   scale  - with hold parameters, and give D50 as needed for hypoglycemia
   (hypoglycemia perhaps due to NPO as well as prior insulin
   administration in setting of ESRD)
   .
   # Confusion: More fearful and confused than yesterday
 concern
   delirium in elderly.
   - pain control (standing Tylenol to avoid opiates as much as possible
   yet still with adequate pain relief)
   - consider haldol or seroquel or zyprexa (keep in mind elderly and
   renal failure) prn if worsens
   - frequent reorientation
   .
   # Frequent urinary tract infections: Patient with know frequent UTIs
   recently started on Macrodantin 100mg QHS for ppx. Reportedly was
   started on augmentin three days ago for UCx + on [**12-28**], though no note
   yet in OMR.
   -- Will avoid augmentin given risk of cholestatic jaundice with current
   LFT's
   -- [**12-28**] showed sensitivities to ceftriaxone --> will write for
   ceftriaxone 1 g IV QD x 7 days
   -- f/u UCx from admission, though will be difficult to interpret in
   setting of recent abx
   -- d/c Foley
   .
   #. History of Anemia. Patient's Hct is up from baseline, likely [**2-28**]
   hemoconcentration. Patient without evidence of active bleeding from GI
   tract, however did note some trace hematemesis, declined NGT in ED.
   -- hold on NGT placement
   -- cont trending Hct
   -- no need for guiaic stools given recent GIB hx; monitor for gross
   blood loss
   .
   # h/o TIA/CVA: No acute concerns or neuro deficits.
   .
   # Hypercholesterolemia:
   - hold home atorvastatin with elevated LFT's (for now).
   .
   # Seasonal Allergies:
   - continue on home fluticasone.
   .
   # FEN: Replete lytes (pm lytes check), NPO for now, hold IVF for now
   (consider IVF if BP decreases).
   .
   # Prophylaxis:
   -DVT ppx with SC heparin being held as INR therapeutic on warfarin
   -Bowel regimen with senna, colace, dulcolax with narcotics
   -Pain management with IV morphine, standing tylenol, lidocaine patch
   .
   # Access: peripherals, 18g R EJ, 20g L PIV, RAVF; place PICC today
   .
   # Code: full code-- confirmed with son on admission to ICU
   .
   # Communication: Patient, son, [**Name (NI) 9875**] [**Name (NI) **] [**Telephone/Fax (1) 9876**]. "signed"
   ICU consent over the phone on admission
   .
   # Disposition: to remain in ICU for close monitoring for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-1-9**] 12:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-11 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-1-10**] 10:00 AM
 EKG - At [**2125-1-10**] 06:56 PM
   - Coumadin decreased to 2mg per Rx recs
   - BP 200's with HR 90's-100's, given Labetolol 10mg IV x1
   - Back in Afib with HR 140's - given Metoprolol 5mg IV x5
   - Diltiazem 10mg IV x4
   - Sevelemer d/c'ed
   - Diet advanced
   - Metoprolol increased to 75mg tid
   - A flutter with rate 130's
   - Metoprolol 5mg IV x1, 10mg IV x1
   - 500cc NS x2 given, as 3L taken off HD. Lytes (K+ ok, Mg low) -
   repleted.
   - N/V -> Compazine, Zofran
   - Labetalol 10mg IV x2
   - Dilt drip started as HR 130's, BP 150's
   - Now HR better controlled
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-9**] 06:40 PM
   Ceftriaxone - [**2125-1-10**] 02:16 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2125-1-10**] 04:34 PM
   Metoprolol - [**2125-1-10**] 08:45 PM
   Labetalol - [**2125-1-10**] 09:43 PM
   Diltiazem - [**2125-1-10**] 10:15 PM
   Pantoprazole (Protonix) - [**2125-1-11**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 74 (61 - 140) bpm
   BP: 132/62(76) {119/27(52) - 206/100(108)} mmHg
   RR: 15 (15 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 69 kg
   Height: 61 Inch
             Total In:
                                                                  1,838 mL
                                                                     80 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,538 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  3,456 mL
                                                                     21 mL
   Urine:
                                                                    356 mL
                                                                     21 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,618 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///32/
   Physical Examination
   GEN
   CV
   PULM
   ABD
   EXTR
   Labs / Radiology
   63 K/uL
   9.8 g/dL
   126 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   20 mg/dL
   99 mEq/L
   140 mEq/L
   32.5 %
   7.1 K/uL
        [image002.jpg]
                            [**2125-1-8**]  04:58 PM
                            [**2125-1-8**]  09:25 PM
                            [**2125-1-9**]  05:17 AM
                            [**2125-1-9**]  05:17 PM
                            [**2125-1-10**]  04:21 AM
                            [**2125-1-11**]  03:28 AM
   WBC
   8.3
   6.7
   7.0
   6.3
   7.1
   Hct
   38.5
   39.9
   35.0
   34.2
   32.3
   32.5
   Plt
   83
   89
   63
   61
   61
   63
   Cr
   2.1
   2.7
   3.3
   2.3
   Glucose
   46
   121
   126
   Other labs: PT / PTT / INR:46.4/38.5/5.0, ALT / AST:139/45, Alk Phos /
   T Bili:127/2.0, Amylase / Lipase:488/223, Fibrinogen:663 mg/dL,
   Albumin:2.5 g/dL, LDH:179 IU/L, Ca++:7.9 mg/dL (stable), Mg++:2.3
   mg/dL, PO4:2.6 mg/dL
   All LFT
s improving.
   Micro;
URINE CULTURE (Final [**2125-1-10**]):
      YEAST.    10,000-100,000 ORGANISMS/ML..
   Blood cultures pending.
   CXR [**1-10**]:
   The patient continues to be in mild volume overload giving the
   bilateral hilar
   engorgement and perihilar vascular engorgement as well as
   indistinctness of
   the perihilar vessels. The degree of the vascular engorgement/pulmonary
   edema
   is unchanged, mild. Bibasilar opacities are present but overall, there
   is
   improved aeration of the lung bases. Small bilateral pleural effusion
   is
   unchanged. There are no new focal consolidations, but the left
   retrocardiac
   opacity might represent a combination of atelectasis and infection.
   CXR from this AM not performed yet.
   Assessment and Plan
 TACHYCARDIA, OTHER
 NAUSEA / VOMITING
 DELIRIUM / CONFUSION
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 PANCREATITIS, ACUTE
   #. PANCREATITIS: acute with no h/o pancreatitis per son, reportedly no
   EtOH, nml TG; slight effusion and volume depletion likely related; Ca
   normal now though a little lower than last night; in considerable
   pain.  Appears volume depleted per labs with hemoconcentration, though
   is hypertensive (got 2L in ED, 125cc/hr overnight).  Unclear cause--
   possibly from augmentin which was started 2 days prior to sx though not
   highly associated with pancreatitis (though is a/w cholestatic
   jaundice)
   -- pain control with IV morphine PRN and standing Tylenol
   -- setup outpatient appointment to evaluate for potential surgery once
   acute inflammation settles
   -- continue to advance diet as tolerated
   -- would be helpful to know baseline dry weight from HD center (renal
   may have this)
   -- monitor Ca daily
   -- zofran and compazine PRN
   -- trend LFTs; consider MRCP if not improving
   --hold on NG tube for bowel decompression given concern for delirium
   and symptomatically improving
   -- check daily CBC and coags (decr. concern for DIC now)
   -- given dysplasia on peripheral smear, f/u CBC as outpatient s/p acute
   inflammation
 f/u with PCP
   .
   #. FEVER: Spiked temp yesterday (pancreatitis versus PNA versus urinary
   versus s/p PICC placement). Afebrile last 24 hours.
   - f/u cultures (blood and urine)
   - discontinued vancomycin
   - monitor fever curve
   - f/u CXR from this morning
   .
   #. Afib with RVR: Patient into afib with RVR to 140s, non-responsive to
   metoprolol, now on dilt gtt.
   - Start diltiazem 30mg qid and wean down dilt gtt as tolerated
   .
   # AFIB: Patient with h/o afib on coumadin. INR slightly subtherapeutic
   at 1.6 in ED. Patient currently sinus rhythm, BP controlled. Now INR
   supratherapeutic.
   - continue coumadin; hold today again
   - can stop SQH now that therapeutic
   - follow daily INR
   - continue home dose of metoprolol with IV doses if needed
   .
   #. HYPERTENSION: Patient with elevated BP into 200-220s SBP in context
   of pain with pancreatitis and also with fluid administration though not
   obviously volume overloaded. At home was on imdur, metoprolol, and
   norvasc.
   -- cont home meds
   -- address pain control
   -- will avoid lowering too aggressively given concern for potential
   hypotension in setting of pancreatitis
   -- note BP cuff has been on leg
   .
   # ESRD on HD: Patient M,W,F HD usually at [**Hospital1 475**], followed by Dr. [**Last Name (STitle) 1362**].
   Has R AVF. S/p HD on [**1-8**]. Given ~3L of fluid on [**1-8**], NS.
   -- f/u renal recs
   -- HD today
   -- restart sevelamer  w/ meals now that trying PO
   .
   # DMII: Controlled on insulin at home
   - QID finger sticks
   - Continue patient on NPH 15 units daily and humalog insulin sliding
   scale  - with hold parameters, and give D50 as needed for hypoglycemia
   (hypoglycemia perhaps due to NPO as well as prior insulin
   administration in setting of ESRD)
   .
   # Confusion: More fearful and confused than yesterday
 concern
   delirium in elderly in ICU setting.
   - pain control (standing Tylenol to avoid opiates as much as possible
   yet still with adequate pain relief)
   - consider haldol or seroquel or zyprexa (keep in mind elderly and
   renal failure) prn if worsens
   - frequent reorientation
   .
   # Frequent urinary tract infections: Patient with know frequent UTIs
   recently started on Macrodantin 100mg QHS for ppx. Reportedly was
   started on augmentin three days ago for UCx + on [**12-28**], though no note
   yet in OMR.
   -- Will avoid augmentin given risk of cholestatic jaundice with current
   LFT's
   -- [**12-28**] showed sensitivities to ceftriaxone --> will write for
   ceftriaxone 1 g IV QD x 10 days
   -- f/u UCx from admission, though will be difficult to interpret in
   setting of recent abx
   -- d/c Foley on [**1-9**]
   -- f/u urine culture
   .
   #. History of Anemia. Patient's Hct is up from baseline, likely [**2-28**]
   hemoconcentration. Patient without evidence of active bleeding from GI
   tract, however did note some trace hematemesis, declined NGT in ED.
   -- hold on NGT placement
   -- cont trending Hct
   -- no need for guiac stools given recent GIB hx; monitor for gross
   blood loss
   .
   # h/o TIA/CVA: No acute concerns or neuro deficits.
   .
   # Hypercholesterolemia:
   - hold home atorvastatin with elevated LFT's (for now).
   .
   # Seasonal Allergies:
   - continue on home fluticasone.
   .
   # FEN: Replete lytes (pm lytes check), clear liquid diet with advance
   as tolerated, hold IVF for now, getting HD.
   # Prophylaxis:
   -DVT ppx with SC heparin being held as INR therapeutic on warfarin;
   hold warfarin today
   -Bowel regimen with senna, colace, dulcolax with narcotics
   -Pain management with IV morphine, standing tylenol, lidocaine patch
   .
   # Access: peripherals, 18g R EJ, 20g L PIV, RAVF; PICC
   .
   # Code: full code-- confirmed with son on admission to ICU
   .
   # Communication: Patient, son, [**Name (NI) 9875**] [**Name (NI) **] [**Telephone/Fax (1) 9876**]. "signed"
   ICU consent over the phone on admission
   .
   # Disposition: call-out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-1-9**] 12:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-11 09:52:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, Hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afib/RVR after HD yesterday
   On dilt gtt overnight --> stopped at 3AM, HR currently in 70s-80s
   24 Hour Events:
 BLOOD CULTURED - At [**2125-1-10**] 10:00 AM
 EKG - At [**2125-1-10**] 06:56 PM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-9**] 06:40 PM
   Ceftriaxone - [**2125-1-10**] 02:16 PM
   Metronidazole - [**2125-1-11**] 08:26 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2125-1-10**] 04:34 PM
   Metoprolol - [**2125-1-10**] 08:45 PM
   Labetalol - [**2125-1-10**] 09:43 PM
   Diltiazem - [**2125-1-10**] 10:15 PM
   Pantoprazole (Protonix) - [**2125-1-11**] 06:02 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2125-1-11**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 88 (61 - 140) bpm
   BP: 136/53(74) {119/31(52) - 206/100(108)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 69 kg
   Height: 61 Inch
             Total In:
                                                                  1,838 mL
                                                                    551 mL
   PO:
                                                                    300 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,538 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  3,456 mL
                                                                     36 mL
   Urine:
                                                                    356 mL
                                                                     36 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,618 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive and
   pleasant but still mildly confused
   Labs / Radiology
   9.8 g/dL
   63 K/uL
   126 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   20 mg/dL
   99 mEq/L
   140 mEq/L
   32.5 %
   7.1 K/uL
        [image002.jpg]
                            [**2125-1-8**]  04:58 PM
                            [**2125-1-8**]  09:25 PM
                            [**2125-1-9**]  05:17 AM
                            [**2125-1-9**]  05:17 PM
                            [**2125-1-10**]  04:21 AM
                            [**2125-1-11**]  03:28 AM
   WBC
   8.3
   6.7
   7.0
   6.3
   7.1
   Hct
   38.5
   39.9
   35.0
   34.2
   32.3
   32.5
   Plt
   83
   89
   63
   61
   61
   63
   Cr
   2.1
   2.7
   3.3
   2.3
   Glucose
   46
   121
   126
   Other labs: PT / PTT / INR:46.4/38.5/5.0, ALT / AST:139/45, Alk Phos /
   T Bili:127/2.0, Amylase / Lipase:488/223, Fibrinogen:663 mg/dL,
   Albumin:2.5 g/dL, LDH:179 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 NAUSEA / VOMITING
 DELIRIUM / CONFUSION
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 PANCREATITIS, ACUTE
   86 yo woman with ESRD on HD in MICU with pancreatits and hypertension
   1. Pancreatitis: improved, advance diet as tolerated
   2. Hypertension: Cont Imdur, metoprolol, Norvasc
   3. Afib: rate currently controlled.  INR high --> holding Coumadin
   4. Chronic Renal Failure: HD per renal
   5. Thrombocytopenia: stable
   6. UTI; CTX x10 days
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-1-9**] 12:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: